US07166628B2
Methyl(triphenylphosphonium) bromide (17.1 g, 48.0 mmol) was suspended in THF (96 mL) and cooled to 0° C. n-Butyllithium (2.5 M in hexane, 19.2 mL, 48.0 mmol) was added dropwise to the mixture. The red solution was stirred at rt for 0.5 h. 1-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-ethanone (10.0 g, 40.0 mmol) was added. The solution turned bright yellow and a white precipitate formed. The mixture was stirred for 1 h at rt and then the solution was quenched with saturated NaHCO3. The aqueous phase was extracted with diethyl ether and the combined organic layers were washed with saturated NaHCO3. The organic layers were dried over sodium sulfate, filtered and concentrated. The resultant mixture was eluted through a plug of silica gel (hexanes) and the filtrate was concentrated to provide tert-butyl-(4-isopropenyl-phenoxy)-dimethyl-silane (8.36 g, 84%) as a colorless oil. ESI MS (m/z 249, M+H).

reactant | n-Butyllithium | 48.0 mmol, 2.5 M, 19.2 mL | C(CCC)[Li]
reactant | 1-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-ethanone | 40.0 mmol, 10.0 g | C(C)(C)(C)[Si](OC1=CC=C(C=C1)C(C)=O)(C)C | C14H22O2Si
catalyst | Methyl(triphenylphosphonium) bromide | 48.0 mmol, 17.1 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 96 mL | C1CCOC1 | C4H8O
product | tert-butyl-(4-isopropenyl-phenoxy)-dimethyl-silane | 8.36 g, 84% | C(C)(C)(C)[Si](C)(C)OC1=CC=C(C=C1)C(=C)C | C15H24OSi
